US07776910B2
3-[4-(3-Fluoro-benzenesulfonyl)-2-methylcarbamoylmethoxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester was deprotected using HCl in 1,4-dioxane following the procedure described in Example 13, to afford 2-[5-(3-Fluoro-benzenesulfonyl)-2-pyrrolidin-3-yl-phenoxy]-N-methyl-acetamide as a hydrochloride salt. MS (M+H)=393.

reactant | 3-[4-(3-Fluoro-benzenesulfonyl)-2-methylcarbamoylmethoxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)OCC(NC)=O | C24H29FN2O6S
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2-[5-(3-Fluoro-benzenesulfonyl)-2-pyrrolidin-3-yl-phenoxy]-N-methyl-acetamide | FC=1C=C(C=CC1)S(=O)(=O)C=1C=CC(=C(OCC(=O)NC)C1)C1CNCC1 | C19H21FN2O4S
